US08221907B2
In an atmosphere of argon, 823 g (2.40 mol) of (methoxymethyl)triphenylphosphonium chloride and 4 L of dehydrated diethyl ether were charged in a flask. Then, 2.4 L (2.40 mol) of a THF solution of 1M potassium-t-butoxide was added, and the resultant was stirred for 2 hours at room temperature. Then, 6 L of a THF dispersion of 370 g (961 mmol) of 2-(3-formylbiphenyl-4-yl)-6-phenylnapthalene was added dropwise, followed by stirring at room temperature for 17 hours. After the reaction, undissolved matters were filtered, and a filtrate was concentrated. Residues were purified by silica gel chromatography, whereby 330 g of 2-[3-(2-methoxy)ethenyl-1-yl]biphenyl-4-yl]-6-phenylnaphthalene (yield: 83%) was obtained.

reactant | (methoxymethyl)triphenylphosphonium chloride | 2.40 mol, 823 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium-t-butoxide | 1M | CC(C)([O-])C.[K+]
reactant | 2-(3-formylbiphenyl-4-yl)-6-phenylnapthalene | 961 mmol, 370 g | C(=O)C=1C=C(C=CC1C1=CC2=CC=C(C=C2C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H20O
solvent | THF | 6 L | C1CCOC1 | C4H8O
solvent | diethyl ether | 4 L | C(C)OCC | C4H10O
solvent | THF | 2.40 mol, 2.4 L | C1CCOC1 | C4H8O
product | 6-phenylnaphthalene | yield: 83% | C1(=CC=CC=C1)C=1C=C2C=CC=CC2=CC1 | C16H12
